US07834014B2
To a solution of trans-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol (1 eq) in 1,4-dioxane was added aqueous KOH solution (5 N) until the pH value reached 9. A solution of Boc2O (2 eq.) in 1,4-dioxane was then added. The mixture was stirred at room temperature for overnight, after which the solvent was removed, and the residue was diluted with water, and extracted with methylene chloride. The combined organic phases were washed with brine, dried over Na2SO4, filtered and concentrated to afford 7-hydroxymethyl-octahydro-pyrido[1,2-a]pyrazine-2-carboxylic acid tert-butyl ester as a white solid. This material was used in the next step without further purification.

reactant | trans-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol | 1 eq | C1[C@@H]2N(CCN1)C[C@@H](CC2)CO | C9H18N2O
reactant | KOH | 5 N | [OH-].[K+]
reactant | Boc2O | 2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 7-hydroxymethyl-octahydro-pyrido[1,2-a]pyrazine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2N(CC1)CC(CC2)CO | C14H26N2O3
